US05225402
To a solution of 1-[4-(2,4-dimethoxybenzoylamino)phenyl]-3,4-dihydrocarbostyril (0.19 g) in dimethylformamide (8 ml) is added with stirring 60% sodium hydride (0.02 g) under ice cooling. The mixture is stirred at room temperature for 0.5 hour and thereto is added a solution of methyl iodide (0.08 g) in dimethylformamide (6 ml). The mixture is stirred at room temperature for 3 hours. The solvent is distilled off under reduced pressure and water is added to the residue. The mixture is extracted with dichloromethane, washed with water and dried with magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography to give 1-{4-[N-(2,4-dimethoxybenzoyl)-N-methylamino]phenyl}-3,4-dihydrocarbostyril (70 mg).

reactant | 1-[4-(2,4-dimethoxybenzoylamino)phenyl]-3,4-dihydrocarbostyril | 0.19 g | COC1=C(C(=O)NC2=CC=C(C=C2)N2C(=O)CCC3=CC=CC=C23)C=CC(=C1)OC | C24H22N2O4
reactant | sodium hydride | 0.02 g | [H-].[Na+]
reactant | methyl iodide | 0.08 g | CI | CH3I
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-{4-[N-(2,4-dimethoxybenzoyl)-N-methylamino]phenyl}-3,4-dihydrocarbostyril | 70 mg | COC1=C(C(=O)N(C)C2=CC=C(C=C2)N2C(=O)CCC3=CC=CC=C23)C=CC(=C1)OC | C25H24N2O4
